US08133889B2
Step A: 5-(2-Chloroacetyl)-6-fluoroindolin-2-one
20 mL of DCM are added dropwise under nitrogen to aluminium chloride (31.1 mmol) at 0-5° C. 6-Fluoroindolin-2-one (5.18 mmol) and acetyl chloride (6.73 mmol) are added to the mixture. The reaction mixture is heated at 50° C. overnight. The reaction mixture is cooled to ambient temperature and then poured into an ice bath, and the suspension obtained is filtered and then washed with cold water to yield the title product.

reactant | aluminium chloride | 31.1 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-Fluoroindolin-2-one | 5.18 mmol | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | acetyl chloride | 6.73 mmol | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Chloroacetyl)-6-fluoroindolin-2-one | ClCC(=O)C=1C=C2CC(NC2=CC1F)=O | C10H7ClFNO2
